Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
fluconazole
 
Attending: ___
 
Chief Complaint:
Abnormal LFTs
 
Major Surgical or Invasive Procedure:
___: ___ guided transcutaneous liver biopsy

 
History of Present Illness:
___ with history of Hash___ thyroiditis and interstitial 
cystitis, w/no history of abnormal LFTs or liver disease, who 
was found to have abnormal LFTs in ___ while on daily 
fluconazole for ___ in the urine for four months.

She was taking 100 mg daily for about four months. Approximately 
eight and a half weeks after stopping fluconazole, she noticed 
dark urine along with light color stool. Labs were checked and 
revealed the following.

LFT trend:
___: ALT 1422, AST 852, total bilirubin 4, AP 310 and INR 
1.  
___, ALT 1320, AST 1099, total bilirubin 6.8, AP 326, INR 
1.1.
___, ALT 1547, AST 1113, total bilirubin 13.7, AP 387, INR 
1.0.

She underwent a CT abdomen and pelvis at ___ on 
___ that shows a normal-appearing liver, pancreas, 
multiple stones in the gallbladder without intra- or 
extra-hepatic biliary dilatation.

After abnormal LFTs, she was referred to Dr. ___ 
evaluation. At that appointment she reported fatigue, but no 
other symptoms. At that visit labs were notable for ALT 950, AST 
864, Alk phos 315, T bili 14.9, iron 179, ferritin 2121, TSH 
.10, free T4 .4, HbSAG Neg, IgM HAV Neg, AMA negative, Smooth Ab 
negative, ___ negative, AFP 12.9, IgG 780, IgM 36, TTG IGA 5. 
CMV and EBV were sent but pending. Per note, patient had testing 
for hep B and hep C that were negative at her primary care 
office. She was referred to ___ for liver biopsy and then sent 
to the
floor for further evaluation.

Upon arrival to the floor, pt reports four months of daily 
fluconazole for ___ in the urine. Stopped taking medication 
in mid ___. She has interstitial cystitis and chronic dysuria 
and fluconazole has helped with her sx. She notes an episode of
nausea, vomiting in late ___, that she thought was related to 
eating bad pork. Over the last couple of months, she reports 
chronic nausea, decreased appetite and fatigue. 

Regarding her abnormal TFTS (TSH .10), she says that she has 
recently halved her thyroid medication per recommendation of the 
MD who follows her thyroid. 

She has been seen at a functional medicine clinic, where her 
nature-throid and diflucan were prescribed. She was also taking 
low dose naltrexone for her hashimotos. She is no longer going 
to this clinic after her abnormal LFTs. She has stopped taking 
naltrexone, magnesium, D2, melatonin and lavender tea since
abnormal LFTs.

She denies fevers, chills, h/a, change in vision, cough, 
congestion, rhinorrhea, nausea, vomiting, chest pain, shortness 
of breath, change in hair/skin/nails, blood in stools, black 
stools, vomiting blood, coughing blood. No more diarrhea, 
constipation and no change in BM frequency. Denies tremor. No ___ 
swelling. No recent travel. No alcohol use or Tylenol use. No 
recent rashes or bug bites. Does report that she noticed 
yellowing of her skin and eyes. 

Does endorse significant fatigue, weight loss (10 pounds) d/t 
decreased appetite. Also reports more anxiety than usual and 
very little energy. Has not felt motivated to do things. She 
also notes mild dysuria. 
 
Past Medical History:
1. Hashimoto thyroiditis (___)
2. Interstitial cystitis.
 
Social History:
___
Family History:
Mother: PBC, died from cirrhosis
Aunt: ___ cirrhosis
Sister: Type 1 DM, ___'s thyroiditis
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: Temp 98.4  BP 105/70  HR 76  RR 18  SaO2 96% RA 
GENERAL: Pleasant, well-appearing, in no apparent distress. 
HEENT: normocephalic, atraumatic, mouth appears dry, scleral 
icterus is present  
HEART: RRR, normal S1/S2, soft systolic murmur heard at ___, no 
rubs or gallops 
LUNGS: Clear to auscultation bilaterally, without wheezes or 
rhonchi. 
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Jaundice. No spider angioma. No palmar erythema 
NEUROLOGIC: A&Ox3, CN II-XII normal, normal sensation, with
strength ___ throughout.

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: Temp 98.0  BP 105/71  HR 82  RR 18  SaO2 95% RA 
GENERAL: Pleasant, well-appearing, in no apparent distress. 
HEENT: normocephalic, atraumatic, mouth appears dry, scleral 
icterus is present  
HEART: RRR, normal S1/S2, soft systolic murmur heard at ___, no 
rubs or gallops 
LUNGS: Clear to auscultation bilaterally, without wheezes or 
rhonchi. 
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly. Biopsy site is clean/dry/intact with dressing 
present, no ecchymoses or tenderness.
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Jaundice. No spider angioma. No palmar erythema 
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ WBC-5.2 RBC-4.44 Hgb-13.1 Hct-38.7 MCV-87 MCH-29.5 
MCHC-33.9 RDW-16.9* RDWSD-53.3* Plt ___
___ ___ PTT-34.1 ___
___ Glucose-106* UreaN-9 Creat-0.7 Na-142 K-4.6 Cl-105 
HCO3-23 AnGap-14
___ ALT-863* AST-865* LD(LDH)-298* AlkPhos-263* 
TotBili-11.8*
___ Albumin-4.2 Calcium-9.4 Phos-4.3 Mg-2.4

======
MICRO:
======

___ Blood (CMV AB)      Icteric Specimen.                   
    

         CMV IgG ANTIBODY: 
         NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
         <4 AU/ML.  

         CMV IgM ANTIBODY: 
         NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 

___ Blood (EBV)      Icteric Specimen.                      
    

         ___ VIRUS VCA-IgG AB:    POSITIVE BY EIA. 
         ___ VIRUS EBNA IgG AB:   POSITIVE BY EIA. 
         ___ VIRUS VCA-IgM AB:    NEGATIVE <1:10 BY 
IFA. 

================
IMAGING/REPORTS:
================

___ ___ guided transcutaneous liver biopsy
Uncomplicated non-targeted liver biopsy.

===============
DISCHARGE LABS:
===============

___ WBC-4.6 RBC-4.33 Hgb-12.7 Hct-37.9 MCV-88 MCH-29.3 
MCHC-33.5 RDW-16.7* RDWSD-53.1* Plt ___
___ ___ PTT-36.3 ___
___ Glucose-88 UreaN-9 Creat-0.6 Na-141 K-4.4 Cl-101 
HCO3-23 AnGap-17*
___ ALT-785* AST-784* LD(LDH)-262* CK(CPK)-51 AlkPhos-233* 
TotBili-9.1* DirBili-5.7* IndBili-3.4
___ Albumin-4.0 Calcium-9.3 Phos-4.4 Mg-2.4
___ IgM HBc-NEG
 
Brief Hospital Course:
___ yo F with history of ___'s thyroiditis, interstitial 
cystitis and four months of daily fluconazole who presented with 
vague symptoms found to have transaminitis without liver failure 
who was admitted to ___ and underwent liver biopsy, which 
revealed evidence of drug induced liver injury.

====================
ACUTE/ACTIVE ISSUES:
====================

# Drug Induced Liver Injury
# Transaminitis
No evidence of synthetic dysfunction given normal platelets, 
albumin, coags. No encephalopathy. Prior to admission, work up 
revealed TF sat of .59, TSH .10, HBSag negative, HAV IgM 
negative, AMA and Smooth muscle Ab negative, ___ negative, AFP 
12.9, IgG 780, IgM 36, tTG-IgA 5. Pt underwent ___ guided liver 
biopsy, which revealed drug induced liver injury. Other 
etiologies for her transaminitis were considered including 
acetaminophen toxicity, acute viral hepatitis, alcoholic 
hepatitis, AI hepatitis, ___ disease, ischemic hepatitis, 
Budd-Chiari, toxin exposure. Given history, pattern of
LFTs, normal CT scan, and biopsy results etiology felt to be 
related to drug toxicity (fluconazole). Pt does have history of 
___'s thyroiditis and strong family history of AI disease, 
but workup for AI hepatitis was negative. 

# ___'s thyroiditis
# Abrnormal TFTs
Patient presented with various sx including nausea, weight loss, 
and anxiety. This may be due to transaminitis although it may be 
related to abnormal TFTs. Pt with suppressed TSH. Reports recent 
decrease in thyroid medication per outpatient provider. Has been 
on reduced dose for two weeks. Discussed use of levothyroxine as 
opposed to T3/T4 combo pill, but patient will discuss with 
outpatient provider. She was continued on nature-throid 32.5 BID 
while in the hospital. 

========================
CHRONIC/STABLE PROBLEMS:
========================

# Interstitial cystitis
Continued gabapentin 400 mg daily

# Psych
Continued mirtazapine 7.5 mg daily

====================
TRANSITIONAL ISSUES:
====================

No medication changes were made during this hospitalization.

[] Follow-up final pathology results of liver biopsy
[] Patient to have weekly labs and sent to Dr. ___
[] Patient has scheduled follow up with Dr. ___
[] Patient needs repeat TFTs in ___ weeks and may require 
adjustment in dose of nature throid or transition to 
levothyroxine

======================================
# CODE STATUS: Full (presumed)
# CONTACT: ___, sister/HCP, cell: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nature-Throid (thyroid (pork)) 32.5 mg oral BID 
2. Gabapentin 400 mg PO DAILY 
3. Mirtazapine 7.5 mg PO QHS 

 
Discharge Medications:
1.  Gabapentin 400 mg PO DAILY  
2.  Mirtazapine 7.5 mg PO QHS  
3.  Nature-Throid (thyroid (pork)) 32.5 mg oral BID  
4.Outpatient Lab Work
Lab work:
___
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Acute transaminitis
Drug induced liver injury

Secondary diagnoses:
___ thyroiditis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
What brought you into the hospital?
-You came to the hospital because of abnormal liver tests

What happened while you were in the hospital?
-You had a liver biopsy and this showed drug induced liver 
damage
-Your liver function tests decreased

What should you do when you leave the hospital?
-You should follow up with Dr. ___ should have your 
labs checked next week

It was a pleasure taking care of you.

Best,
Your ___ Team
 
Followup Instructions:
___